US09034866B2
To a solution of 4,9-Dibromo-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester (400 mg, 0.954 mmol) in THF (6 mL) was added morpholine (416 mg, 4.775 mmol). The reaction mixture was stirred at 60° C. for 5 h. Then the mixture was cooled to room temperature and partitioned between EtOAc and H2O, and the aqueous layer was extracted with EtOAc (2×20 mL). The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo to afford crude product as yellow oil. The oily product was stirred in n-Hexane (6 mL) at room temperature for 0.5 h and then filtered to afford compound 9-Bromo-4-morpholin-4-yl-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester (300 mg, 75%) as a light yellow solid. 1H NMR (400 MHz, DMSO-d6): δ 8.39 (d, J=2.6 Hz, 1H), 7.48 (dd, J1=8.6 Hz, J2=2.6 Hz, 1H), 7.13 (d, J1=8.64 Hz, 1H), 4.55 (dd, J1=12.08 Hz, J2=3.32 Hz, 1H), 4.40 (dd, J1=6.6 Hz, J2=3.2 Hz, 1H), 4.31 (m, 1H); 3.94 (s, 31-1) 3.56 (m, 4H); 2.68 (m, 4H); LC-MS (ESI & APCI): 427.2 (M+2).

reactant | 4,9-Dibromo-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester | 0.954 mmol, 400 mg | COC(=O)C=1SC=2C(COC3=C(C2N1)C=C(C=C3)Br)Br | C13H9Br2NO3S
reactant | morpholine | 4.775 mmol, 416 mg | N1CCOCC1 | C4H9NO
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | n-Hexane | 6 mL | CCCCCC | C6H14
product | 9-Bromo-4-morpholin-4-yl-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester | 300 mg, 75% | COC(=O)C=1SC=2C(COC3=C(C2N1)C=C(C=C3)Br)N3CCOCC3 | C17H17BrN2O4S
